US08420629B2
3-fluoro-1-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclobutylacetonitrile
A solution of 3-hydroxy-1-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclobutylacetonitrile (0.01 g, 0.00003 mol) (a mixture of cis/trans isomers) in dichloromethane (3 mL), contained in a Teflon bottle equipped with a nitrogen inlet tube and stirring bar, was treated with 2-methoxy-N-(2-methoxyethyl)-N-(trifluoro-λ(4)-sulfanyl)ethanamine (0.03 mL, 0.0002 mol) at rt. Ethanol (0.002 mL, 0.00003 mol) was added, and the mixture was stirred at rt over weekend. The reaction was evaporated to dry and the residue was purified with prep. HPLC (pH=10) to give a mixture of two isomers. LCMS calculated for C15H14FN6(M+H)+: 297.1. Found: 297.3.

reactant | 3-hydroxy-1-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclobutylacetonitrile | 0.00003 mol, 0.01 g | OC1CC(C1)(N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2)CC#N | C15H14N6O
reactant | 2-methoxy-N-(2-methoxyethyl)-N-(trifluoro-λ(4)-sulfanyl)ethanamine | 0.0002 mol, 0.03 mL | COCCN(S(F)(F)F)CCOC | C6H14F3NO2S
reactant | Ethanol | 0.00003 mol, 0.002 mL | C(C)O | C2H6O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-fluoro-1-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclobutylacetonitrile | FC1CC(C1)(N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2)CC#N | C15H13FN6
